US04731368
Step A: Preparation of 6-[2-(Dimethylamino)ethyl]thieno[2,3-c]pyridin-7(6H)-one
To a solution of thieno[2,3-c]pyridin-7(6H)one (2.92 g, 19.3 mmol) in dry dimethylformamide (20 ml) under a nitrogen atmosphere was added 2-(dimethylamino)ethyl chloride hydrochloride (3.15 g, 21.8 mmol). This mixture was warmed to 80° C. and sodium hydride in mineral oil (60%, 2.6 g, 65 mmol) was added carefully and rapidly. After 1.5 hours additional 2-(dimethylamino)ethyl chloride hydrochloride (1.45 g, 10 mmol) was added. After two hours the reaction mixture was cooled and diluted with water. The crude product was extracted into chloroform and then into dilute hydrochloric acid. The acidic solution was made basic with sodium hydroxide and the product extracted into diethyl ether. This was dried over anhydrous sodium sulfate, filtered and evaporated to give an oily product (3.8 g, 89% yield) which contained less than 10% of the by-product resulting from O-alkylation.

reactant | thieno[2,3-c]pyridin-7(6H)one | 19.3 mmol, 2.92 g | S1C=CC2=C1C(NC=C2)=O | C7H5NOS
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 21.8 mmol, 3.15 g | Cl.CN(CCCl)C
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 10 mmol, 1.45 g | Cl.CN(CCCl)C
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-[2-(Dimethylamino)ethyl]thieno[2,3-c]pyridin-7(6H)-one | 3.8 g, 89% yield | CN(CCN1C(C2=C(C=C1)C=CS2)=O)C | C11H14N2OS
